US05332750
6-butyl-3-butylaminomethyl-1-(2'-cyanobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine
3-benzylaminomethyl-6-butyl-1-(2'-cyanobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine, oil, Rf 0.15 (dichloromethane/methanol 95:5)

reactant | 3-benzylaminomethyl-6-butyl-1-(2'-cyanobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine | C(C1=CC=CC=C1)NCC=1C(N(C(=CC1)CCCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O | C31H31N3O
solvent | dichloromethane methanol | ClCCl.CO
product | 6-butyl-3-butylaminomethyl-1-(2'-cyanobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine | C(CCC)C1=CC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O)CNCCCC | C28H33N3O
